US05008265
3-Cycloheptylpropionitrile is prepared in this example according to the procedure of Example 1 using a solution of 2-bromocycloheptane (25.57 g; 144.38 mmole); Bu3SnH (50.42 g; 173.26 mmole), acrylonitrile (15.32 g; 288.77 mmole), and AIBN (1.13 g) in toluene (300 ml). Yield is 16 g; mp oil.

reactant | 2-bromocycloheptane | 144.38 mmole, 25.57 g | BrC1CCCCCC1 | C7H13Br
reactant | Bu3SnH | 173.26 mmole, 50.42 g | CCCC[SnH](CCCC)CCCC
reactant | acrylonitrile | 288.77 mmole, 15.32 g | C(C=C)#N | C3H3N
reactant | AIBN | 1.13 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cycloheptylpropionitrile | C1(CCCCCC1)CCC#N | C10H17N
